US08895544B2
5-Ethyl-2-fluoro-4-[3-(1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt
A 1M solution of boron tribromide in DCM (3.18 mL, 3.18 mmol) was added dropwise to a solution of 2-[6-(2-ethyl-5-fluoro-4-methoxy-phenyl)-1H-indazol-3-yl]-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine (Preparation 31, 410 mg, 796 μmol) in DCM (10 mL) at 0° C. The resulting solution was stirred at room temperature for 18 hours. The precipitated solid was collected by filtration, washed with tBME, then triturated with EtOAc to yield the title compound (380 mg) in a 75% yield.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 2-[6-(2-ethyl-5-fluoro-4-methoxy-phenyl)-1H-indazol-3-yl]-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine | 796 μmol, 410 mg | C(C)C1=C(C=C(C(=C1)OC)F)C1=CC=C2C(=NNC2=C1)C1=NC2=C(CCNCC2)N1 | C23H24FN5O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3.18 mmol, 3.18 mL | C(Cl)Cl | CH2Cl2
product | 5-Ethyl-2-fluoro-4-[3-(1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepin-2-yl)-1H-indazol-6-yl]-phenol trihydrobromide salt | 380 mg, 75% yield | Br.Br.Br.C(C)C=1C(=CC(=C(C1)O)F)C1=CC=C2C(=NNC2=C1)C1=NC2=C(CCNCC2)N1 | InChI=1S/C22H22FN5O.3BrH/c1-2-12-10-20(29)16(23)11-15(12)13-3-4-14-19(9-13)27-28-21(14)22-25-17-5-7-24-8-6-18(17)26-22;;;/h3-4,9-11,24,29H,2,5-8H2,1H3,(H,25,26)(H,27,28);3*1H
